US07276518B2
Dimethyl-(8-thiophen-2-yl-1,4-dioxa-spiro[4.5]dec-8-yl)-amine hydrochloride (8.68 g) was dissolved in 7.5M hydrochloric acid (29 ml), stirred for 48 hours at room temperature and then extracted with diethyl ether (2×50 ml). The aqueous phase was rendered alkaline with 5M sodium hydroxide solution, while cooling with ice, extracted with dichloromethane (3×50 ml), dried and concentrated. 4-Dimethylamino-4-thiophen-2-yl-cyclohexanone was obtained as a yellow solid (5.66 g; m.p. 108-110° C.).

reactant | Dimethyl-(8-thiophen-2-yl-1,4-dioxa-spiro[4.5]dec-8-yl)-amine hydrochloride | 8.68 g | Cl.CN(C1(CCC2(OCCO2)CC1)C=1SC=CC1)C
solvent | hydrochloric acid | 7.5M, 29 ml | Cl | ClH
product | 4-Dimethylamino-4-thiophen-2-yl-cyclohexanone | CN(C1(CCC(CC1)=O)C=1SC=CC1)C | C12H17NOS
